### PR TITLE
feat(Topology): generalise Isometry to `WeakPseudoEMetricSpace` and friends

### PR DESCRIPTION
**Pull request by felixpernegger**
After doing the first few per hand, this was now done by GPT 5.6 Sol. I reviewed however and it looks good

---

- [ ] depends on #42706

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/EMetricSpace/Lipschitz.lean [hunk 1]
```diff
@@ -180,13 +186,16 @@ theorem edist_lt_of_edist_lt_div (hf : LipschitzWith K f) {x y : α} {d : ℝ≥
...
+    ⟨ε / K, ENNReal.div_pos_iff.2 ⟨ne_of_gt εpos, ENNReal.coe_ne_top⟩, hg.edist_lt_of_edist_lt_div⟩
 
 /-- A Lipschitz function is continuous. -/
-protected theorem continuous (hf : LipschitzWith K f) : Continuous f :=
-  hf.uniformContinuous.continuous
+protected theorem continuous (ht : LipschitzWith K t) : Continuous t := by
+  apply continuous_def.mpr fun o ho ↦ ?_
+  let := PseudoEMetricSpace.ofEDist (α := β) edist edist_self edist_comm edist_triangle
+  exact continuous_def.mp (UniformContinuous.continuous ht.uniformContinuous) o <|
+    WeakPseudoEMetricSpace.topology_le o ho
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/Lipschitz.lean]:
```suggestion
protected theorem continuous (ht : LipschitzWith K t) : Continuous t :=
  let := PseudoEMetricSpace.ofEDist (α := β) edist edist_self edist_comm edist_triangle
  continuous_le_rng WeakPseudoEMetricSpace.topology_le ht.uniformContinuous.continuous
```

**Comment by felixpernegger** [comment]
LLM-generated
